US04640916
To 15 ml of dimethylformamide were added 1.21 g of 2-(2-chloroethyl)-4-methyl-2H-1,4-benzothiazin-3(4H)-one, 1.08 g of 1-(4-fluorophenyl)piperazine, 0.69 g of potassium carbonate and 0.05 g of sodium iodide. The mixture was stirred at 100° C. for 4 hours. The reaction solution was poured into ice-water and extracted with dichloromethane. The dichloromethane layer was washed with water and dried (MgSO4). Then, the solvent was evaporated off. The residue was subjected to a column chromatography on silica-gel (130 g). From the eluate with hexane-ethyl acetate (1:1, v/v) was obtained 2-[2-[4(4-fluorophenyl)-1-piperazinyl]ethyl]-4-methyl-2H-1,4-benzothiazin-3(4H)-one as an oily substance. This product was treated with methanol saturated with hydrogen chloride to give crystals of its hydrochloride. The yield was 0.99 g (43.2%). Recrystallization from methanol-ether gave prisms, m.p. 202°-204° C.

reactant | 2-(2-chloroethyl)-4-methyl-2H-1,4-benzothiazin-3(4H)-one | 1.21 g | ClCCC1SC2=C(N(C1=O)C)C=CC=C2 | C11H12ClNOS
reactant | 1-(4-fluorophenyl)piperazine | 1.08 g | FC1=CC=C(C=C1)N1CCNCC1 | C10H13FN2
reactant | potassium carbonate | 0.69 g | C([O-])([O-])=O.[K+].[K+]
reactant | sodium iodide | 0.05 g | [I-].[Na+]
solvent | dimethylformamide | 15 ml | CN(C=O)C | C3H7NO
product | 2-[2-[4(4-fluorophenyl)-1-piperazinyl]ethyl]-4-methyl-2H-1,4-benzothiazin-3(4H)-one | FC1=CC=C(C=C1)N1CCN(CC1)CCC1SC2=C(N(C1=O)C)C=CC=C2 | C21H24FN3OS
